US04983600
(a) 2-Pyridoylurea
A mixture of sodium (0.23 g, 10 mmol), urea (0.8 g, 13.3 mmol) and liquid ammonia (40 ml) was stirred until the blue colour was discharged, then ethyl 2-pyridinecarboxylic acid (2.85 g, 18.8 mmol) was added all at once. After 1 h the ammonia was evaporated and the residue triturated with water to give the above compound, mp 183°-185° C.

reactant | sodium | 10 mmol, 0.23 g | [Na] | Na
reactant | urea | 13.3 mmol, 0.8 g | NC(=O)N | CH4N2O
reactant | ethyl 2-pyridinecarboxylic acid | 18.8 mmol, 2.85 g | C(C)C=1C(=NC=CC1)C(=O)O | C8H9NO2
solvent | ammonia | 40 ml | N | H3N
product | 2-Pyridoylurea | N1=C(C=CC=C1)C(=O)NC(=O)N | C7H7N3O2
